US07067517B2
Methyl-phenyl-carbamic acid 5-nitro-3-trifluoromethyl-pyridin-2-yl ester
A solution of 2-hydroxy-5-nitro-3-(trifluoromethyl)pyridine (0.36 g, 1.73 mmol), N-methyl-N-phenylcarbamoyl chloride (0.44 g, 2.59 mmol) and 1,4-diazabicyclo[2.2.2]octane (0.29 g, 2.59 mmol) in tetrahydrofuran (15 ml) was stirred at room temperature for 18 hours. The solvent was evaporated in vacuo and the residue was purified by flash column chromatography (SiO2, ethyl acetate:heptane (15:85)) yielding the title compound (0.55 g, 92% yield) as an orange solid.

reactant | 2-hydroxy-5-nitro-3-(trifluoromethyl)pyridine | 1.73 mmol, 0.36 g | OC1=NC=C(C=C1C(F)(F)F)[N+](=O)[O-] | C6H3F3N2O3
reactant | N-methyl-N-phenylcarbamoyl chloride | 2.59 mmol, 0.44 g | CN(C(=O)Cl)C1=CC=CC=C1 | C8H8ClNO
reactant | 1,4-diazabicyclo[2.2.2]octane | 2.59 mmol, 0.29 g | N12CCN(CC1)CC2 | C6H12N2
solvent | tetrahydrofuran | 15 ml | O1CCCC1 | C4H8O
product | Methyl-phenyl-carbamic acid 5-nitro-3-trifluoromethyl-pyridin-2-yl ester | 0.55 g, 92% yield | [N+](=O)([O-])C=1C=C(C(=NC1)OC(N(C1=CC=CC=C1)C)=O)C(F)(F)F | C14H10F3N3O4
